US07507740B2
Production of 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}sulfonyl)ethanol
A solution of 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}thio)ethanol (150 mg), titanium tetraisopropoxide (43 μL), methanol (24 μL) and water (10 μL) in dichloromethane was stirred at room temperature for 30 min. 70% Aqueous tert-butyl hydroperoxide solution (0.12 mL) was added to the reaction system, and the mixture was stirred at room temperature for 2 days. An aqueous sodium thiosulfate solution was added to the reaction system, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=4:1) to give the title compound (118 mg) as colorless crystals.

reactant | 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}thio)ethanol | 150 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCSCCO | C23H20ClF3N4O2S
reactant | methanol | 24 μL | CO | CH4O
reactant | tert-butyl hydroperoxide | 0.12 mL | C(C)(C)(C)OO | C4H10O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | titanium tetraisopropoxide | 43 μL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | water | 10 μL | O | H2O
product | 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}sulfonyl)ethanol | 118 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCS(=O)(=O)CCO | C23H20ClF3N4O4S
